* Boost Converter Simulation
* Specification: Vin=5V -> Vout=12V, fsw=100kHz
* 47uH inductor, 47uF output capacitor, 120 ohm load
*
* Originally written for PSPICE - needs adaptation for ngspice
*

***** Circuit Parameters *****
.param fsw=100k
.param duty=0.583
.param period={1/fsw}
.param ton={duty*period}

***** Power Source (5V DC) *****
VIN in 0 DC 5

***** Input Decoupling Capacitor *****
CIN in 0 10u IC=5

***** Boost Inductor (47uH with 50mohm DCR) *****
L1 in sw 47u
RDCR sw sw2 0.05

***** Power MOSFET Switch *****
M1 gate sw2 0 0 NMOS_SW W=10m L=0.5u

***** Gate Drive PWM (100kHz, 58.3% duty cycle) *****
VGATE gate 0 PULSE(0 10 0 10n 10n {ton} {period})

***** Freewheeling Schottky Diode *****
D1 sw2 out DSCHOTTKY
.model DSCHOTTKY D(IS=1e-6 RS=0.042 N=1.045 BV=40 CJO=100p TT=5n)

***** Output Capacitor (47uF with 30mohm ESR) *****
RESR out out_int 0.03
COUT out_int 0 47u IC=12

***** Load Resistor (120 ohm ~ 100mA at 12V) *****
RLOAD out 0 120

***** Voltage Sense for Feedback (Open Loop) *****
ESENSE sense 0 VALUE={V(out)*0.275}

***** MOSFET Model *****
.model NMOS_SW NMOS (LEVEL=7 Rds=0.05 Vto=2.0 Kp=40
+ Cgdmax=800p Cgdmin=100p Cgs=1000p Cjo=200p Is=1e-10 Rb=0.01)

***** Transient Simulation *****
.tran 10n 2m UIC

***** Measurement and Output *****
.control
run
meas tran vout_avg avg v(out) from=1.5m to=2m
meas tran vout_max max v(out) from=1.5m to=2m
meas tran vout_min min v(out) from=1.5m to=2m
meas tran iin_avg avg i(vin) from=1.5m to=2m
echo "SIMULATION_COMPLETE"
.endc

.end
