# Cascaded transmission lines with different impedances
V1 1 0 1
Rs 1 2 50
T1 2 0 3 0 z=50 f=10meg nl=0.25
T2 3 0 4 0 z=75 f=10meg nl=0.125
Rl 4 0 100
.ac 0 40meg 2meg
