# Mismatched loads: lo-Z (25 ohm) and hi-Z (100 ohm) on separate tlines from same source
V1 1 0 1
R4s 1 41 50
T4 41 0 42 0 z=50 f=10meg nl=0.25
R4l 42 0 25
R5s 1 51 50
T5 51 0 52 0 z=50 f=10meg nl=0.25
R5l 52 0 100
.ac 0 40meg 2meg
